US07094801B2
Ex-119A: 5-Bromobenzaldehyde (0.5 g, 2.7 mmol) and 2,3-dihydrofuran (0.56 g, 8.1 mmol) were dissolved in dioxane (5.0 mL). Nitrogen was bubbled into the solution for 15 min followed by the sequential addition of cesium carbonate (0.96 g, 2.9 mmol) and bis(tri-t-butylphosphine)palladium(0) (0.014 g, 0.027 mmol). The solution was immediately heated to 45° C. and aged for 24 h. Upon completion, as determined by HPLC, the reaction was diluted with water (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organic extracts were dried over sodium sulfate and concentrated to a brown oil. Silica gel chromatography (ethyl acetate/hexanes, 1:9) gave 0.18 g (40%) of 3-(2,3-dihydro-furan-2-yl)-benzaldehyde as a clear, colorless oil. 1H-NMR (300 MHz, CDCl3) δ 10.03 (s, 1H), 7.88 (s, 1H), 7.82 (d, 1H, J=7.2 Hz), 7.62–7.64 (m, 1H), 7.53 (t, 1H, J=7.2 Hz), 6.48 (q, 1H, J=Hz), 5.60 (dd, 1H, J=8.1, 10.8 Hz), 4.98 (q, 1H, J=3.3 Hz), 3.15 (ddt, 1H, J=15.0, 8.1, 2.5 Hz), 2.59 (ddt, 1H, J=15.0, 8.1, 2.5 Hz). MS (EI) m/z=174 ([M]+, 100%). HRMS (EI) Calcd. for C11H10O2: 174.0681. Found: 174.0677.

reactant | 5-Bromobenzaldehyde | 2.7 mmol, 0.5 g | BrC=1C=CC=C(C=O)C1 | C7H5BrO
reactant | 2,3-dihydrofuran | 8.1 mmol, 0.56 g | O1CCC=C1 | C4H6O
reactant | cesium carbonate | 2.9 mmol, 0.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.027 mmol, 0.014 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 3-(2,3-dihydro-furan-2-yl)-benzaldehyde | 0.18 g, 40% | O1C(CC=C1)C=1C=C(C=O)C=CC1 | C11H10O2
